US04806145
To a stirred solution of 16.0 g (0.053 mole) of 1-(2-chloro-4-methyl-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 100 mL of methylene chloride at 10° C. was added dropwise 39.6 g (0.16 mole) of boron tribromide. The resultant mixture was stirred at room temperature for two days. This mixture was washed with 100 mL of water. The organic layer was dried with anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to leave an oil. This oil was stirred in petroleum ether:diethyl ether (90:10) forming a solid. The solid was collected by filtration to yield 10.5 g of 1-(2-chloro-4-methyl-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one (mp 154°-156° C.).

reactant | 1-(2-chloro-4-methyl-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.053 mole, 16.0 g | ClC1=C(C=C(C(=C1)C)OC)N1N=C(N(C1=O)C(F)F)C | C12H12ClF2N3O2
reactant | boron tribromide | 0.16 mole, 39.6 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-chloro-4-methyl-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 10.5 g | ClC1=C(C=C(C(=C1)C)O)N1N=C(N(C1=O)C(F)F)C | C11H10ClF2N3O2
